US06858651B2
A solution of 200 mg (0.62 mmol) of trans-{4-[3-(Allyl-methyl-amino)-prop-1-ynyl]-cyclohexyl}-methyl-carbamic acid tert-butyl ester in 3.5 ml CH2Cl2 was treated at 0° C. with 1.7 ml TFA (for 20 min). After 30 min at this temperature, the reaction mixture was evaporated, treated with 1 N NaOH/CH2Cl2 (3×). The organic phase was dried over Na2SO4 and evaporated to yield 147 mg (quantitative) of trans-{4-[3-(Allyl-methyl-amino)-prop-1-ynyl]-cyclohexyl}-methyl-amine, MS: 221 (MH+).

reactant | trans-{4-[3-(Allyl-methyl-amino)-prop-1-ynyl]-cyclohexyl}-methyl-carbamic acid tert-butyl ester | 0.62 mmol, 200 mg | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C#CCN(C)CC=C)=O | C19H32N2O2
reactant | TFA | 1.7 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3.5 ml | C(Cl)Cl | CH2Cl2
product | trans-{4-[3-(Allyl-methyl-amino)-prop-1-ynyl]-cyclohexyl}-methyl-amine | 147 mg | C(C=C)N(CC#C[C@@H]1CC[C@H](CC1)NC)C | C14H24N2
